US05045541
To a mixture of 37 g of 9-fluoro-2-[4-(2-oxopropoxy)phenyl]-5,6-dihydrobenzo[h]cinnolin-3(2H)-one, 33 g of dimethylamine hydrochloride and 700 ml of ethanol is added dropwise 200 ml of an ethanol solution of 10 g of sodium cyanoboron hydride while stirring under heating and reflux over the period of 2 hours. After the completion of the dropwise addition, the reaction is concentrated under reduced pressure. To the residue is added 200 ml of water, and then conc. hydrochloric acid is added thereto under ice-cooling. After the mixture is stirred at room temperature for 1 hour, it is rendered alkaline with potassium carbonate and extracted with ethyl acetate. After the extract is washed with water and dried over magnesium sulfate, the solvent is distilled off under reduced pressure Ethanol is added to the thus obtained oily substance and further fumaric acid is added thereto to convert into its salt. The resultant crystals are recrystallized from hydrous ethanol to give 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-5,6 -dihydrobenzo[h]cinnolin-3(2H)-one.fumarate.

reactant | 9-fluoro-2-[4-(2-oxopropoxy)phenyl]-5,6-dihydrobenzo[h]cinnolin-3(2H)-one | 37 g | FC1=CC2=C(CCC3=CC(N(N=C23)C2=CC=C(C=C2)OCC(C)=O)=O)C=C1 | C21H17FN2O3
reactant | dimethylamine hydrochloride | 33 g | Cl.CNC
reactant | sodium cyanoboron hydride | 10 g | C(#N)B.[Na]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-5,6 -dihydrobenzo[h]cinnolin-3(2H)-one | FC1=CC2=C(CCC3=CC(N(N=C23)C2=CC=C(C=C2)OCC(C)N(C)C)=O)C=C1 | C23H24FN3O2
